US06358972B1
5-Methoxy-3-(1-Methylpiperidin-4-yl)indole
5-Methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)indole (9.00 g, 37 mmol) was dissolved in 190 mL of ethanol/tetrahydrofuran/methanol (10:10:1). 10% palladium on carbon (2.2 g) was added, and the reaction mixture was hydrogenated at 40 p.s.i. in a Parr shaker for 96 hours. The mixture was filtered through celite, the catalyst was washed with ethanol, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel (5-10% 2M ammonia-methanol/dichloromethane) to provide 8.79 g (97%) of the title compound. MS(m/e): 245 (M+). EA calculated for C14H19N3O: C, 68.54; H, 7.81; N, 17.13. Found: C, 68.40; H, 7.52; N, 16.90.

reactant | 5-Methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)indole | 37 mmol, 9.00 g | COC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C15H18N2O
solvent | ethanol tetrahydrofuran methanol | 190 mL | C(C)O.O1CCCC1.CO
catalyst | palladium on carbon | 2.2 g | [Pd] | Pd
product | 5-Methoxy-3-(1-Methylpiperidin-4-yl)indole | 8.79 g, 97% | COC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C15H20N2O
